US08217177B2
Dissolved 3-bromo-8-chloro-1,5-naphthyridine (210 mg, 862 μmol) in 8 mL of THF and cooled to −78° C. Then added butyllithium (517 μl, 1294 μmol) and stirred for 15 min. Added tert-butyl 4-oxopiperidine-1-carboxylate (258 mg, 1294 μmol) and let warm to room temperature over 1 h. The reaction was quenched with saturated NH4Cl and extracted with dichloromethane (3×20 mL), dried over NaSO4 and concentrated. Intermediate was purified via MPLC (DCM/MeOH/NHOH) to yield tert-butyl 4-(8-chloro-1,5-naphthyridin-3-yl)-4-hydroxypiperidine-1-carboxylate (120 mg, 38% yield.

reactant | 3-bromo-8-chloro-1,5-naphthyridine | 862 μmol, 210 mg | BrC=1C=NC2=C(C=CN=C2C1)Cl | C8H4BrClN2
reactant | butyllithium | 1294 μmol, 517 μl | C(CCC)[Li]
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 1294 μmol, 258 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(8-chloro-1,5-naphthyridin-3-yl)-4-hydroxypiperidine-1-carboxylate | 38% yield | ClC=1C=CN=C2C=C(C=NC12)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C18H22ClN3O3
